US07919468B2
N-Boc-Tyr(Bn)-Lys(Boc)-Trp-NH(CH2)4NHBoc:
compound SP308P. Same procedure as above with Trp-NH(CH2)4NHBoc (152.4 mg, 0.407 mmol), N-Boc-Tyr(Bn)-Lys(Boc)-OH (247.3 mg, 0.407 mmol), EDC (85.8 mg, 0.45 mmol) and HOBt (60.7 mg, 0.45 mmol) in CH2Cl2/DMF (1.8 mL, 1/1). The crude residue was triturated with MeOH/pentane to afford a white solid (255.9 mg, 65%). 1H NMR (300 MHz, DMSO-d6) δ 1.29-1.57 (m, 10H, 3 CH2 Lys, 2 CH2 putrescine), 1.29 (s, 9H, (CH3)3), 1.36 (s, 9H, (CH3)3), 2.64 (m, 1H, CH2 Tyr), 2.86-3.11 (m, 9H, CH2 Lys, CH2 Tyr, CH2 Trp, 2 CH2 putrescine), 4.10 (m, 1H, CHα), 4.26 (m, 1H, CHα), 4.46 (m, 1H, CHα), 5.03 (s, 2H, CH2 (Bn)), 6.70 (broad s, 1H), 6.87-7.4 (m, 15H), 7.56 (d, J=7.6 Hz, 1H), 7.81-7.97 (m, 3H), 10.8 (s, 1H). 13C NMR (75 MHz, DMSO-d6) δ 22.4, 29.2, 32 (3 CH2 Lys), 26.2, 26.7 (2 CH2 putrescine), 27.8 (CH2 Trp), 28, 28.1, 28.2 (3 (CH3)3), 36.3 (CH2 Tyr), 38.2, 39.5, 39.8 (2 CH2 putrescine, CH2 Lys), 52.4, 53.4, 55.8 (CHα Tyr, Lys, Tip), 69 (CH2 (Bn)), 77.2, 78 (2 C(CH3)3), 109.8, 111.1, 114.2, 118.1, 118.4, 120.7, 123.4, 127.3, 127.5, 127.6, 128.3, 130.1, 135.9, 137.1 (19 aromatic C), 154.7, 155.5, 156.7 (Car-O, 2 CO carbamate), 170.7, 171.1, 171.5 (3 CO amide). Anal. Calcd. for C52H73N7O10: C, 65.32; H, 7.70; N, 10.25. Found: C, 65.30; H, 7.64; N, 10.04.

reactant | Trp-NH(CH2)4NHBoc | 0.407 mmol, 152.4 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C | C20H30N4O3
reactant | N-Boc-Tyr(Bn)-Lys(Boc)-OH | 0.407 mmol, 247.3 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OC(C)(C)C | C32H45N3O8
reactant | EDC | 0.45 mmol, 85.8 mg
reactant | HOBt | 0.45 mmol, 60.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 DMF | 1.8 mL | C(Cl)Cl.CN(C)C=O
product | N-Boc-Tyr(Bn)-Lys(Boc)-Trp-NH(CH2)4NHBoc | 255.9 mg, 65% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C52H73N7O10
